US07408071B2
Step 31 (A): (R)-tert-Butyl 1-(4-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate
A suspension of 4-(trifluoromethyl)phenylboronic acid (190 mg), copper (II) acetate (27 mg) and 4 Å molecular sieves (188 mg) in dichloromethane (4 mL) was stirred at room temperature for 5 min, and (R)-tert-butyl pyrrolidine-2-carboxylate (86 mg) in acetonitrile (0.5 mL) was added followed by triethylamine (0.07 mL). The reaction vial was flushed with oxygen, sealed and stirred at 50° C. for 24 h. The reaction mixture was filtered through a pad of Celite, and the filtrate was evaporated in vacuo. The residue was purified by preparative TLC eluting with 10% ethyl acetate/90% hexanes to give the title compound as a colorless oil (43 mg). HPLC retention time: 1.99 min (method A). MS (ESI) (M+H)+ 316.14. 1H NMR (400 MHz, CDCl3) δ 7.41 (1H, d, J=8.4 Hz), 6.52 (1H, d, J=8.4 Hz), 4.15 (1H, m), 3.53 (1H, m), 3.40 (1H, m), 2.0-2.3 (3H, m), 1.41 (9H, s).

reactant | 4-(trifluoromethyl)phenylboronic acid | 190 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | (R)-tert-butyl pyrrolidine-2-carboxylate | 86 mg | N1[C@H](CCC1)C(=O)OC(C)(C)C | C9H17NO2
reactant | triethylamine | 0.07 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
catalyst | copper (II) acetate | 27 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (R)-tert-Butyl 1-(4-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate | 43 mg | FC(C1=CC=C(C=C1)N1[C@H](CCC1)C(=O)OC(C)(C)C)(F)F | C16H20F3NO2
